US06797726B1
In 90 mL of ethanol is dissolved 25 g of toluenethiol, to which are added 12.42 g of potassium hydroxide and 33.3 mL of bromoacetaldehyde diethyl acetal. The mixture thus obtained is heated under reflux for 2.5 hours. The reaction mixture is introduced into a mixture of ice water and diethyl ether, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is distilled under reduced pressure (113-125° C./2.5 mm Hg) to obtain 41.5 g of 1-[(2,2-diethoxyethyl)sulfanyl]-3-methylbenzene as an oily product.

reactant | toluenethiol | 25 g | C=1(C(=CC=CC1)S)C | C7H8S
reactant | potassium hydroxide | 12.42 g | [OH-].[K+]
reactant | bromoacetaldehyde diethyl acetal | 33.3 mL | C(C)OC(CBr)OCC | C6H13BrO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 1-[(2,2-diethoxyethyl)sulfanyl]-3-methylbenzene | 41.5 g | C(C)OC(CSC1=CC(=CC=C1)C)OCC | C13H20O2S
